US04217306
A solution of 100 parts of 1-bromo-2-methylnaphthalene, 80.5 parts of N-bromosuccinimide and 0.5 part of benzoyl peroxide in 1500 parts by volume of carbon tetrachloride is heated at reflux temperature for several hours. The solution is then cooled, washed twice with water and the organic layer separated. The organic layer is dried over calcium sulfate, filtered and concentrated to give 1-bromo-2-(bromomethyl)naphthalene, as an oil which solidifies on standing.

reactant | 1-bromo-2-methylnaphthalene | BrC1=C(C=CC2=CC=CC=C12)C | C11H9Br
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-bromo-2-(bromomethyl)naphthalene | BrC1=C(C=CC2=CC=CC=C12)CBr | C11H8Br2
